US09212187B2
Synthesis of 7-aminomethyl-1,5-dimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
10% Palladium on carbon(0.1 g) was added to an acetic acid solution (20 ml) of 1,5-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile(0.3 g), and catalytic reduction was carried out at room temperature under 4 atm. The catalyst was removed by celite filtration, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=9:1→5:5). The purified product was condensed under reduced pressure to give the title compound(0.17 g) as a yellowish white solid.

reactant | 1,5-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile | 0.3 g | CN1C2=C(N(C(CC1=O)=O)C)C=C(C=C2)C#N | C12H11N3O2
catalyst | Palladium on carbon | 0.1 g | [Pd] | Pd
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7-aminomethyl-1,5-dimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.17 g | NCC1=CC2=C(N(C(CC(N2C)=O)=O)C)C=C1 | C12H15N3O2
